US07109186B2
Compound 747: 4-Hydroxy-5-oxo-1-[2-(4-pyridin-4-yl-piperazine-1-yl)-ethyl]-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
A solution of 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide (0.29 g, 0.71 mmol) in acetonitrile/water (10 mL, 2.5:1) was stirred with trifluoroacetic acid (1 mL) overnight at room temp. The mixture was concentrated then dissolved in MeOH (3 mL). 1-(4-pyridyl)-piperazine (0.42 g, 2.6 mmol) was added and the resulting mixture was stirred at room temp 30 min. Sodium cyanoborohydride (0.013 g, 0.2 mmol) was added and the mixture was stirred an additional 5 h at room temp. The crude product was purified by preparative HPLC (YMC Combiprep ODS-A, 30 mm×50 mm, MeOH/H2O/0.1% TFA) to yield the title compound as an amber foam (0.0042 g, 12% yield). HRMS (M+H) calcd for C24H28N5Cl2O3: 504.15693; found: 504.1564.

reactant | 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | 0.71 mmol, 0.29 g | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CC(OC)OC)C)C=CC1Cl | C17H20Cl2N2O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(4-pyridyl)-piperazine | 2.6 mmol, 0.42 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | Sodium cyanoborohydride | 0.2 mmol, 0.013 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile water | 10 mL | C(C)#N.O
product | 4-Hydroxy-5-oxo-1-[2-(4-pyridin-4-yl-piperazine-1-yl)-ethyl]-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | 0.0042 g, 12% yield | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCN(CC2)C2=CC=NC=C2)C)C=CC1Cl | C24H27Cl2N5O3
